US09388176B2
2-(2-methyl-4-nitrophenyl)-1,2,3,4-tetrahydro-2,7-naphthyridine
A mixture of commercially available 1,2,3,4-tetrahydro-2,7-naphthyridine dihydrochloride (456 mg, 2.2 mmol), 2-fluoro-5-nitrotoluene (512 mg, 3.3 mmol), and N,N-diisopropylethylamine (2.0 mL, 11.4 mmol) in 8.0 mL DMSO was heated at 115° C. for 20 hours. The reaction was added to a H2O/brine mixture, then extracted with EtOAc. The EtOAc portion was washed with a H2O/brine mixture, aqueous Na2CO3 solution, dried with anhydrous Na2SO4, and evaporated to an oil. An impure sample from a previous reaction (1.0 mmol scale) was combined, and then chromatographed eluting with CHCl3/EtOAc to give the title compound as a yellow solid (365 mg, 42% combined yield). 1H NMR (CDCl3) δ: 8.40-8.43 (m, 2H), 8.05-8.11 (m, 2H), 7.14 (d, J=5.0 Hz, 1H), 7.11 (d, J=8.5 Hz, 1H), 4.27 (s, 2H), 3.36 (t, J=5.7 Hz, 2H), 3.04 (t, J=5.6 Hz, 2H), 2.42 (s, 3H).

reactant | 1,2,3,4-tetrahydro-2,7-naphthyridine dihydrochloride | 2.2 mmol, 456 mg | Cl.Cl.C1NCCC2=CC=NC=C12
reactant | 2-fluoro-5-nitrotoluene | 3.3 mmol, 512 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | N,N-diisopropylethylamine | 11.4 mmol, 2.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | H2O brine | O.[Cl-].[Na+].O
solvent | DMSO | 8.0 mL | CS(=O)C | C2H6OS
product | 2-(2-methyl-4-nitrophenyl)-1,2,3,4-tetrahydro-2,7-naphthyridine | 365 mg, 42% | CC1=C(C=CC(=C1)[N+](=O)[O-])N1CC2=CN=CC=C2CC1 | C15H15N3O2
